### PR TITLE
(First step to) General theory of the rewriting systems

### PR DESCRIPTION
**Pull request by volodeyka**

### CODE REVIEW

File: rewriting_system.v [hunk 1]
```diff
@@ -0,0 +1,166 @@
...
+
+Section RewritingSystem.
+
+Context {S : Type} (rw1 rw2 : hrel S S).
+
+Notation "s1 ~> s2" := (rw1 s1 s2) (at level 20).
+Notation "s1 >> s2" := (rw2 s1 s2) (at level 20).
+
+Definition diamond_prop := forall s1 s2 s3, 
+  s1 ~> s2 -> s1 >> s3 -> exists2 s4, s2 >> s4 & s3 ~> s4.
```
Comment (eupp) [inline rewriting_system.v:68]: Why do you formulate it using two rewrite relations? 
The classical definition uses only one rewrite relation.

File: rewriting_system.v [hunk 2]
```diff
@@ -0,0 +1,166 @@
...
+
+Hypothesis ((* shine on you crazy *) diamond : diamond_prop).
+
+Notation "s1 ~>+ s2" := (rw1^+ s1 s2) (at level 20).
+Notation "s1 >>+ s2" := (rw2^+ s1 s2) (at level 20).
+
+Lemma half_confluence {s1 s2 s3}:
```
Comment (eupp) [inline rewriting_system.v:75]: I thought this property is called _semi-confluence_ according to [Term Rewriting and All That](https://www.cambridge.org/core/books/term-rewriting-and-all-that/71768055278D0DEF4FFC74722DE0D707)

File: rewriting_system.v [hunk 3]
```diff
@@ -0,0 +1,166 @@
...
+Lemma confluence s1 s2 s3: 
+  s1 ~>+ s2 -> s1 >>+ s3 -> exists2 s4, s2 >>+ s4 & s3 ~>+ s4.
+Proof.
+  move: s3=> /[swap].
+  suff: (rw1^+ ≦ (fun s1 s2 => forall s3, s1 >>+ s3 -> exists2 s4, s2 >>+ s4 & s3 ~>+ s4)).
+  - apply.
+  apply/itr_ind_l1=> {s1 s2} [?? s?|s1 s2 /= [s5 /half_confluence c IH s3 /c]].
+  - case/(half_confluence s)=> x ? /(itr_ext rw1) ?; by exists x.
+  case=> s6 /IH[s4 *]; exists s4=> //; apply/(itr_cons rw1); by exists s6.
+Qed.
```
Comment (eupp) [inline rewriting_system.v:96]: It would be nice to first give the definitions of:

1. confluence
2. semi-confluence
3. diamond property

And only then prove lemmas that

1. semi-confluence implies confluence (in fact, you can show these two conditions equivalent)
2. diamond property implies semi-confluence and thus confluence

File: rewriting_system.v [hunk 4]
```diff
@@ -0,0 +1,166 @@
...
+Notation "s1 ~> s2"   := (rw           s1 s2) (at level 20).
+Notation "s1 ~>+ s2"  := (rw^+         s1 s2) (at level 20).
+Notation "s1 ~~ s2"   := (eqv          s1 s2) (at level 20).
+Notation "s1 ~>~ s2"  := (rw ⋅ eqv     s1 s2) (at level 20).
+Notation "s1 ~>+~ s2" := (rw^+ ⋅ eqv   s1 s2) (at level 20).
+Notation "s1 ~>~+ s2" := ((rw ⋅ eqv)^+ s1 s2) (at level 20).
+
+Definition ediamond_prop := forall s1 s2 s3, 
+  s1 ~> s2 -> s1 ~> s3 -> 
+  exists s4 s4', (s2 ~> s4 * s3 ~> s4' * s4 ~~ s4')%type.
```
Comment (eupp) [inline rewriting_system.v:117]: I think you can modularize it too.
1. Assume usual diamond property for rewrite rule extended to equivalence classes: `-->~`
2. Prove lemma `s1 --> s2 => s1 -->~ s2` (follows trivially from reflexivity of `~`). 

Then you can derive what you call `ediamond_prop`.

File: rewriting_system.v [hunk 5]
```diff
@@ -0,0 +1,166 @@
...
+
+Definition equiv_prop := forall s1 s2 s3, 
+    s1 ~~ s2 -> s1 ~> s3 -> 
+      exists2 s4 , s2 ~> s4 & s3 ~~ s4.
+
+Hypothesis eqv_trans : forall e2 e1 e3, e1 ~~ e2 -> e2 ~~ e3 -> e1 ~~ e3.
+Hypothesis eqv_symm  : forall e1 e2, e1 ~~ e2 -> e2 ~~ e1.
+Hypothesis eqv_refl  : 1 ≦ eqv.
```
Comment (eupp) [inline rewriting_system.v:125]: Why don't you use transitivity, reflexivity, etc from the vanilla Coq library?
There is even `Equivalence` in `Coq.Classes.RelationClasses`. 
Are there any hidden problem with them?
Maybe we could also ask advice from @anton-trunov

File: rewriting_system.v [hunk 6]
```diff
@@ -0,0 +1,166 @@
...
+(*             s1 ~>⁺ s2 |                                                    *)
+(*                       | ==> exists s4 ~~ s4' s.t. s2 ~>⁺ s4 and s3 ~>⁺ s4' *)
+(*             s1 ~>⁺ s3 |                                                    *)
+(******************************************************************************)
+
+Section RewritingSystem.
+
+Context {S : Type} (rw1 rw2 : hrel S S).
+
+Notation "s1 ~> s2" := (rw1 s1 s2) (at level 20).
```
Comment (eupp) [inline rewriting_system.v:64]: While I also think this notation is nice, it wouldn't be available outside of the section. 
In particular, when someone will print the `diamond_prop` he/she wouldn't see the nice-looking formulation of this property with fancy notation. 
We probably should do something about it.

File: rewriting_system.v [hunk 7]
```diff
@@ -0,0 +1,166 @@
...
+Section ERewritingSystem.
+
+Variables (S : Type) (rw eqv : hrel S S).
+
+Notation "s1 ~> s2"   := (rw           s1 s2) (at level 20).
+Notation "s1 ~>+ s2"  := (rw^+         s1 s2) (at level 20).
+Notation "s1 ~~ s2"   := (eqv          s1 s2) (at level 20).
+Notation "s1 ~>~ s2"  := (rw ⋅ eqv     s1 s2) (at level 20).
+Notation "s1 ~>+~ s2" := (rw^+ ⋅ eqv   s1 s2) (at level 20).
+Notation "s1 ~>~+ s2" := ((rw ⋅ eqv)^+ s1 s2) (at level 20).
```
Comment (eupp) [inline rewriting_system.v:113]: Okay, perhaps 6 notations is too much : )

**Review by eupp — CHANGES_REQUESTED** [review]
